US07655643B2
Benzyl (2Z)-3-(5-bromo-2-fluorophenyl)-2-[(tert-butoxycarbonyl)amino]acrylate
6.0 g (30 mmol) of 5-bromo-2-fluorobenzaldehyde and 12.7 g (34 mmol) of benzyl [(tert-butoxycarbonyl)amino](dimethoxyphosphoryl)acetate are introduced into 90 ml of THF and, while cooling with acetone/dry ice at −78° C., 3.91 g (34 mmol) of 1,1,3,3-tetramethylguanidine are added. After 4 h in the cold bath, the mixture is slowly warmed to RT and stirred at RT for a further 12 h. The solvent is distilled off in vacuo, and the crude product is taken up in ethyl acetate and washed once each with a saturated sodium bicarbonate solution and a saturated sodium chloride solution. The organic phase is dried over magnesium sulfate and evaporated to dryness in vacuo. The crude product is purified by chromatography (silica gel, cyclohexane/ethyl acetate 2:1).

reactant | 5-bromo-2-fluorobenzaldehyde | 30 mmol, 6.0 g | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | benzyl [(tert-butoxycarbonyl)amino](dimethoxyphosphoryl)acetate | 34 mmol, 12.7 g | C(C)(C)(C)OC(=O)NC(C(=O)OCC1=CC=CC=C1)P(=O)(OC)OC | C16H24NO7P
reactant | acetone dry ice | CC(=O)C.C(=O)=O
reactant | 1,1,3,3-tetramethylguanidine | 34 mmol, 3.91 g | CN(C(=N)N(C)C)C | C5H13N3
solvent | THF | 90 ml | C1CCOC1 | C4H8O
product | Benzyl (2Z)-3-(5-bromo-2-fluorophenyl)-2-[(tert-butoxycarbonyl)amino]acrylate | BrC=1C=CC(=C(C1)\C=C(\C(=O)OCC1=CC=CC=C1)/NC(=O)OC(C)(C)C)F | C21H21BrFNO4
